US06525042B1
Methyl 4-(1-methoxycarbonylpyrrolidin-3-yl)benzoate
In N,N-dimethylformamide (25 ml), methyl 4-trifluoromethanesulfonyloxybenzoate (1.05 g), 1-methoxycarbonyl-3-pyrroline (1.0 g), lithium chloride (0.51 g), palladium (II) acetate(53 mg) and tri(2-furyl)phosphine (100 mg) were dissolved, followed by the addition of diisopropylethylamine (2.8 ml). Under an argon gas atmosphere, the resulting mixture was stirred at 90° C. for 11 hours and then, at 100° C. for 7 hours. The residue obtained by distilling off the solvent under reduced pressure was added with dichloromethane and water. The organic layer so separated was washed with water and dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column (hexane:ethyl acetate=9:1˜5:1). The purified product was dissolved in methanol (30 ml), followed by the addition of 10% palladium carbon (water content: about 50%, 186 mg) and ammonium formate (197 mg). The resulting mixture was heated under reflux for 2 hours. After the removal of the catalyst by filtration, the solvent was distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column (10% ethyl acetate-toluene), whereby the title compound (241 mg, 25%) was obtained.

reactant | methyl 4-trifluoromethanesulfonyloxybenzoate | 1.05 g | FC(S(=O)(=O)OC1=CC=C(C(=O)OC)C=C1)(F)F | C9H7F3O5S
reactant | 1-methoxycarbonyl-3-pyrroline | 1.0 g | COC(=O)N1CC=CC1 | C6H9NO2
reactant | lithium chloride | 0.51 g | [Cl-].[Li+]
reactant | tri(2-furyl)phosphine | 100 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | diisopropylethylamine | 2.8 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
catalyst | palladium (II) acetate | 53 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl 4-(1-methoxycarbonylpyrrolidin-3-yl)benzoate | COC(=O)N1CC(CC1)C1=CC=C(C(=O)OC)C=C1 | C14H17NO4
